US06743852B2
Benzoxazine 11.
This compound was prepared according to the method described in the previous examples from ethylene diamine (6.0 g, 100 mmole), paraformaldehade (12.6 g, 420 mmole), 2-allyl-phenol (26.8 g, 200 mmole), and toluene (200 ml). The final product was obtained as a viscous liquid. The yield was 92% of theory.

reactant | ethylene diamine | 100 mmole, 6.0 g | C(CN)N | C2H8N2
reactant | 2-allyl-phenol | 200 mmole, 26.8 g | C(C=C)C1=C(C=CC=C1)O | C9H10O
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | Benzoxazine | yield was 92% | O1NC=CC2=C1C=CC=C2 | C8H7NO
